US04859672
Borane/THF complex (1.44 mol) as a 1M solution in tetrahydrofuran was added, dropwise, to a solution of 2-(methylamino)-nicotinonitrile (63.9 g, 480 mmol) in tetrahydrofuran (480 mL). This mixture was stirred at room temperature for 1 hour then heated to reflux for 3 hours. The reaction mixture was quenched by dropwise addition of methanol (136 mL, 3.36 mol) followed by 6M HCl (80 mol, 480 mmol) and 10% HCl (400 mL). The phases were separated and the organic phase washed with brine (2×480 mL). The aqueous phase was made alkaline with 50% aqueous NaOH (250 g). The aqueous phase was extracted with dichloromethane (2×480 mL) and the organic extracts dried over Na2SO4. Concentration in vacuo gave 44.85 g of 3-(aminomethyl)-2-methylaminopyridine as a pale yellow oil.

reactant | 2-(methylamino)-nicotinonitrile | 480 mmol, 63.9 g | CNC1=C(C#N)C=CC=N1 | C7H7N3
reactant | methanol | 3.36 mol, 136 mL | CO | CH4O
reactant | HCl | 80 mol, 6M | Cl | ClH
reactant | HCl | 400 mL | Cl | ClH
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 480 mL | O1CCCC1 | C4H8O
product | 3-(aminomethyl)-2-methylaminopyridine | 44.85 g | NCC=1C(=NC=CC1)NC | C7H11N3
